US09120761B2
(d) Methyl 2-(2-(2-(2-((2-methyl-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I54)
A solution of methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I15) (450 mg, 1.11 mmol), tert-butyl 4-(4-amino-3-methylphenyl)piperidine-1-carboxylate (I53) (390 mg, 1.34 mmol) and TFA (0.25 mL) in 2,2,2-TFE (3 mL) was heated at 120° C. under microwave irradiation for 30 minutes. The resulting mixture was adsorbed onto silica gel and chromatographed (0-50% MeOH/DCM) to give the title compound (I54) (478 mg, 83%) as a viscous liquid; 1H NMR (400 MHz, CDCl3) δ 9.14 (bs, 1H), 8.76 (bs, 1H), 8.51 (s, 1H), 7.58 (d, J=8.2 Hz, 1H), 7.21 (ddt, J=10.7, 7.4, 4.3 Hz, 4H), 7.15-7.06 (m, 1H), 3.65 (s, 2H), 3.60 (d, J=12.6 Hz, 2H), 3.49 (s, 3H), 3.15-3.02 (m, 6H), 2.87-2.71 (m, 1H), 2.32 (s, 3H), 2.07 (d, J=7.8 Hz, 4H). LCMS Method C: rt 5.24 min; m/z 513.2 [M+1]+.

reactant | methyl 2-(2-(2-(2-(methylsulfonyl)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 1.11 mmol, 450 mg | CS(=O)(=O)C1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C17H17F3N2O4S
reactant | tert-butyl 4-(4-amino-3-methylphenyl)piperidine-1-carboxylate | 1.34 mmol, 390 mg | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C17H26N2O2
reactant | TFA | 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 2-(2-(2-(2-((2-methyl-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | CC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C28H31F3N4O2
